US04001216
2-Hydroxy-1,2-bis(3-hydroxyphenyl)ethanone
To a hot stirred solution of 3,3'-dihydroxybenzil (5 g.) in water (200 ml) and tin (30 mesh) was slowly added concentrated hydrochloric acid (10 ml.). Heating on a steam bath with efficient mechanical stirring was continued for 1 hour. Thin layer chromatography on Silica AR 7GF plates (Mallinckrodt) with chloroform-methanol (9:1) showed the reaction was largely complete after 15 minutes. The mixture was filtered, while hot, through Celite and the filtrate was evaporated to smaller volume. The resulting crystals (4.60 g.), m.p. 159°-162° were recrystallized from hot water with decolorization to give white crystals, m.p. 173°-175°, M+ 244 (E. I. mode), pmr (DMSO-d6) δ 5.97 [s, --CH(OH)].

reactant | 3,3'-dihydroxybenzil | 5 g | OC=1C=C(C=CC1)C(=O)C(=O)C1=CC(=CC=C1)O | C14H10O4
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | chloroform methanol | C(Cl)(Cl)Cl.CO
solvent | water | 200 ml | O | H2O
solvent | tin | [Sn] | Sn
product | 2-Hydroxy-1,2-bis(3-hydroxyphenyl)ethanone | OC(C(=O)C1=CC(=CC=C1)O)C1=CC(=CC=C1)O | C14H12O4
